Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Bee Pollen / grass poll-perennial rye,std / Januvia
 
Attending: ___.
 
Chief Complaint:
Acute Pancreatitis
 
Major Surgical or Invasive Procedure:
Endotracheal intubation
Electroconvulsive Therapy
Right arm PICC placement
 
History of Present Illness:
___ with h/o DM2, HLD who was transferred from an outside 
hospital for acute pancreatitis, intubated. The patient's family 
wanted a second opinion for management of his acute 
pancreatitis.

Pt initially presented to ___ ___ w nausea 
vomitting and abdominal pain. He was noted to have an elevated 
lipase of 3000. CT abd showed pancreatic stranding consistent w 
acute pancreatitis. His vitals on admission were 97.3 113 148/78 
95% ra. He had an initial WBC of 12.6. 

He was seen by GI, who suggested aggressive hydration and 
discontinuation of Januvia and Clozaril (though this was 
restarted per psych at a lower dose). Triglycerides were 334 on 
___. His lipase was improving by then but on ___, the patient 
had elevated Tbili of 11.6 on ___. He had an abd US that showed 
normal gallbladder, no biliary dilitation. ___ was called to see 
the patient and an ERCP was done showing edematous duodenum with 
a smooth stricture about 2 cm was found, thought to be from 
pancreatic edema from pancreatitis. A stent was placed and dark 
sludge was seen.  The patient's Tbili improved to 3 but then 
rose to 7.7 on ___. A repeat ERCP was done, which showed 
displacement of plastic stent and a ___ CBD stricture, so a 
metallic stent (10 mm diameter and 6 cm long) was placed. 

His course was complicated by a blood culture on ___ that 
showed pansensitive E.coli. He was initially placed on Zosyn but 
de-escalated to Levaquin after sensitivites returned. Subsequent 
BCx on ___ was also negative. 

Later in his hospital course, he was noted to have had 
stridorous respirations. He had a 6 x 3 cm hardened dark brown 
foreign body on top of the glottis that was removed. The patient 
was having worsening stridor, so he was intubated. He had 
hypotension and was started on levophed, but this has since been 
weaned. He has been intermittently febrile and had most recently 
received vancomycin and meropenem though blood cultures appeared 
to be negative. 

There was a mention in the discharge summary of a pseudocyst 
imaged on CT abd/pelvis that was new since imaging performed on 
___. 

Of note, the patient had episodes of agitation requiring Haldol 
5 mg q4h plus Ativan. He had required Precedex for agitation.

Labs prior to transfer on ___: 
Na 145 K 4.4 Cl 102 CO2 23 BUN 15 Cr 1.0 Glu 378
Ca 7.1 Alb 2.2 Phos 3.0 Mg 1.7 
Tbili 1.3 AST 135 ALT 77 AP 143
lipase ___ ABG ___
WBC 13.0 Hct 27.0 Plt 265 
___ WBC 6.0 Hct 28 Plt 151

On admission ___: 
Na 139 K 3.6 Cl 100 CO2 22 BUN 17 Cr 1.2 
Ca 9.1 P 3.7 Mg 1.7 
Tbili 0.6 AST 26 ALT 26 AP 80
 
Past Medical History:
Schizoaffective disorder
DM2 
Asthma
OSA
HLD

 
Social History:
___
Family History:
Cancer 
CAD 

 
Physical Exam:
ADMISSION EXAM:
===================
Vitals- T: 101 BP: 128/62 P: 114 R: 25 
Vent: CPAP ___ 50% FiO2
General: Intubated, awakens to voice
HEENT: Sclera anicteric, MM dry
Neck: supple, JVP not elevated, no LAD  
Lungs: Rhonchorous breath sounds
CV: Tachycardic, normal S1,S2, no murmurs, rubs, gallops  
Abdomen: distended, soft, tender to palpation, bowel sounds 
present
GU: foley in place
Ext: warm, well perfused, significant 3+ edema in b/l ___

DISCHARGE EXAM:
====================
98.1, 113/72, 89, 18, 98% RA
FSBG 117, 105, 198, 140, 240, 147
General- AAOx3, pleasant, NAD
HEENT- anicteric, MMM
Neck- supple, JVP not elevated, no LAD  
Lungs- Clear to auscultation b/l, no w/r/r
CV- RRR, normal S1/S2, no m/r/g
Abdomen- soft, NABS, TTP at the R lower ribs. no abd tenderness. 
No rebound or guarding
Ext- no edema
Neuro- AOx3, CNs grossly intact, MAEE. No rigidity.
Skin- No bruising appreciated

 
Pertinent Results:
ADMISSION LABS:
==================
___ 04:50PM BLOOD WBC-7.3 RBC-3.12* Hgb-8.9* Hct-26.8* 
MCV-86 MCH-28.4 MCHC-33.1 RDW-15.3 Plt ___
___ 04:50PM BLOOD Neuts-81.5* Lymphs-11.3* Monos-6.9 
Eos-0.1 Baso-0.3
___ 04:50PM BLOOD ___ PTT-29.9 ___
___ 04:50PM BLOOD Glucose-331* UreaN-15 Creat-0.9 Na-139 
K-4.4 Cl-105 HCO3-27 AnGap-11
___ 04:50PM BLOOD ALT-79* AST-110* LD(LDH)-339* 
AlkPhos-134* TotBili-1.1
___ 04:50PM BLOOD Lipase-23
___ 04:50PM BLOOD Calcium-7.0* Phos-3.1 Mg-2.0 Iron-17*
___ 04:50PM BLOOD calTIBC-127* Ferritn-659* TRF-98*
___ 05:30PM BLOOD Type-ART Temp-37.6 PEEP-5 pO2-168* 
pCO2-30* pH-7.53* calTCO2-26 Base XS-3 Intubat-INTUBATED
___ 05:30PM BLOOD Lactate-1.5

DISCHARGE LABS:
==================

MICROBIOLOGY:
==================
Blood cultures x2 ___: negative
MRSA ___: negative
Urine culture ___: negative
C.diff ___: negative
Stool O&P and culture ___: negative
MRSA ___: positive
Blood cultures ___ and ___: negative

___ SPUTUM : Staphylococcus                     
       
CLINDAMYCIN-----------       R
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------   =>8 R
OXACILLIN-------------   =>4 R
RIFAMPIN-------------- <=0.5 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S
VANCOMYCIN------------     1 S

___ c diff negative
___ blood culture negative
___ urine culture negative
___ urine culture negative

IMAGING:

==================
___ Imaging prior to transfer

IMAGING:  
CXR:  ___
No previous images. There is an endotracheal tube in place with
its tip approximately 3 cm above the carina. Nasogastric tube
extends well into the stomach. Right subclavian catheter extends
to the level of the carina. Mild basilar atelectatic changes
without evidence of acute pneumonia or vascular congestion. 
There may well be a small right pleural effusion.  

CT scan: ___
Impression: 
1. no evidence of free air. 
2. asymmetric ileus versus developing small bowel obstruction.
follow up studies recommended. 
3. pancreatitis without gross evidence of pancreatic
devitalization. Peripancreatic induration and free fluid have
increased since prior study
4. Ascites which has developed since prior study
5. bibasilar atelectasis with effusions. new since prior study 

RUQ ultrasound: ___
multiple cysts in left kidney. the spleen mildly prominent 

CT abdomen and pelvis with contrast: ___
-heterogenous appearance of the pancreas with diffuse
peripancreatic soft tissue streaking compatible with
acute/subacute pancreatitis. There is no evidence of pancreatic
pseudocyst or bascess
-diverticulosis of descending and sigmoid colon 
-bilateral renal cysts 
-small fat containing periumbilical hernia 

MRCP without contrast ___
- no evidence of bile duct or pancreatic duct dilation 
- no filling defects within the gallbladder
- moderate acute pancreatitis. no pseudocyst formation 
- small voluem ascites, small left pleural effusion 

KUB: ___
asymmetric ileus vs SBO

CT abdomen and pelvis ___
- no evidence of free air
- asymmetric ileus vs developing small bowel obstruction. follow
up studies recommended
- pancreatitis without gross evidence of pancreatic
devitalization. peripancreatic inducation and free fluid have
increased since prior study
- ascites which has developed since prior studfy
- bibasilar atelectasis with effusions 

ENDOSCOPIC STUDIES:  
ERCP: ___
stomach was grossly distended with 200-300 mL of bilious fluid.
duodenum is edematous most likely from pancreatitis. bile duct
cannulation was obtained wtih sphincterotome and guidewire.
cholangiogram revealed smooth distal common bile duct stricture
about 2 cm with proximallay dilated biliary system. this
structure appears to be from pancreatic edema from pancreatitis.
I performed sphincterotomy followed by placement of plastic
biliary stent ___ Fr and 5 cm long and it was started to drain
dark thick bile readily. 
Impression: most likely biliary sludge induced panreatitis 

ERCP ___
Old plastic bile duct stent seems to have slipped out. I removed
it with the help of a snare. Cholangiogram was obtained which
again showed distal smooth CBD stricture 2-3 cm long. I placed a
fully covered metallic stent by ___ which is 10 mm
in diamter and 6 mm long. This started to drain sludgy bile. 

CT abd/pelvis w/o contrast ___:
1. No evidence of free air
2. Asymmetric ileus versus developing small bowel obstruction. 
Follow-up studies recommended.
3. Pancreatitis without gross evidence of pancreatic 
devitalization. Peripancreatic induration and free fluid have 
increased since prior study
4. Ascites which ahs developed since prior study.
5. Bibasilar atelectasis with effusions, new since prior study.

================
___ imaging 

CXR ___:
IMPRESSION:   
No previous images. There is an endotracheal tube in place with 
its tip 
approximately 3 cm above the carina. Nasogastric tube extends 
well into the stomach. Right subclavian catheter extends to the 
level of the carina. Mild basilar atelectatic changes without 
evidence of acute pneumonia or vascular congestion.  There may 
well be a small right pleural effusion. 

CXR ___:
In comparison with the earlier study of this date, there is and 
placement of a Dobbhoff tube, the tip of which extends just 
below the esophagogastric junction. It should be pushed forward 
at least 10 cm if possible. 

ECG ___:
Sinus rhythm. Leftward axis. Late R wave progression. Compared 
to the 
previous tracing of ___ the limb lead voltage is now less. 
Otherwise, 
probably no change. 

CT abd/pelvis ___:
1. The pancreatic necrotic collection has walled-off since 
___. Portal venous system including the portal vein, 
superior mesenteric vein, and splenic vein are patent.  A common 
bile duct stent has been placed. 
2. There is persistent bilateral pleural effusion and bibasilar 
atelectasis. 
3. The multiple large renal cysts in the left kidney and a small 
hypodensity in the right kidney are unchanged since ___. 


Abd US and duplex doppler ___:
Necrotizing pancreatitis with Doppler flow in the superior 
mesenteric vein, portal vein and the majority of the splenic 
vein. No definite flow could be identified within the mid 
portion of the splenic vein, which may be technical, as recent 
CT scan showed small calibre but opacification of this vessel. 

CXR ___:
IMPRESSION:  
As compared to the previous radiograph, no relevant change is 
seen. The tip of the endotracheal tube projects 3 cm above the 
carinal.  The lung volumes remain low.  No pleural effusions.  
No pulmonary edema.  No pneumonia.  No pneumothorax.  The 
previously placed Dobbhoff catheter has been removed. 

CXR ___:
IMPRESSION:  
LUNG LOW IN VOLUME BUT CLEAR. SMALL RIGHT PLEURAL ABNORMALITY, 
ALONG THE RIGHT LATERAL COSTAL MARGIN CORRESPONDS TO THE SMALL 
PLEURAL EFFUSION EFFUSION SEEN ON ABDOMEN CT ___. TODAY 
THERE IS THE SUGGESTION OF A NONDISPLACED FRACTURE AT THE 
LATERAL ASPECT OF THE RIGHT SIXTH RIB, BUT THAT FINDING IS NOT 
PRESENT ON ANY OF THE PRIOR CHEST RADIOGRAPHS OR THE ABDOMEN CT 
SO IT MAY BE ARTIFACTUAL. 
NO PNEUMOTHORAX. NORMAL CARDIOMEDIASTINAL SILHOUETTE. 

CT Head ___:
IMPRESSION:   
No acute intracranial process. 

___
CT abd/pelvis with contrast
IMPRESSION: 
1. No significant change in the walled pancreatic necrotic fluid 
collection compared with ___ CT exam.
2. Interval enlargement of the spleen with severe compromise of 
the splenic vein and increasing collateral return via the 
gastrocolic trunk suggests development of sinistral portal 
venous hypertension.
3. Increased mucosal enhancement in the rectum may reflect 
infectious or
inflammatory colitis/proctitis.

___ CXR: 
Progressive elevation of the right lung base coupled with 
worsening 
consolidation in the lower lung suggests severe atelectasis. 
There is also moderate right pleural effusion. The right 
bronchial tree is poorly 
defined. The findings suggest large scale aspiration or 
difficulty clearing secretions.  Left lung is clear.  Left heart 
border is normal. 
Left PIC line ends at the origin of the SVC. 

___ CXR: 
Endotracheal tube has been removed.  The feeding tube and 
left-sided PICC line are unchanged in position. There are mildly 
low lung volumes. There is no focal consolidation. There is mild 
atelectasis at the lung bases. There are no pneumothoraces. 

___ CXR:
As compared to the previous radiograph, the patient has received 
a nasogastric tube. The tip of the tube is located in pre 
pyloric position. The middle parts of the tube are slightly 
coiled in the stomach. The left PICC line is unchanged.  No 
evidence of complications, no pneumothorax.  No pleural 
effusions.  No pneumonia. 

___ CXR:
In comparison with the study of ___, the left subclavian 
catheter has been pulled back to the region of the junction of 
the brachiocephalic vein with the superior vena cava. Otherwise 
little change. 

___ CXR:
In comparison with the study of ___, there has been 
placement of a new left PICC line extends to the mid to lower 
portion of the SVC. Otherwise, little change in the appearance 
of the heart and lung and no evidence of acute abnormality. 

___ Abdominal XR:
The nasogastric tube has unfolded, remaining within the stomach, 
likely 
terminating within the antrum or pylorus.  A biliary stent is 
present.  
Included views of the lung bases are clear. A normal bowel gas 
pattern is 
demonstrated. 

___ Right Rib XR:
No fracture or dislocation.

___ CT A/P pancreas protocol:
1. Absence of pneumobilia is concerning for CBD stent occlusion. 
Superior 
migration of the common bile duct stent, now external to the 
duodenal lumen, in comparison to ___ CT with 
duodenal wall within the inferior margin of the stent, is likely 
etiology for obstruction. Differential includes stricture at the 
level of the ampulla. 
2.  Increased necrosis of a chronic pancreatic collection with 
increased gas and slightly more organized adjacent collections 
within the pancreatic head. 
4. Patent vasculature with persistent narrowing of the SMV, 
splenic vein, and portal confluence. No thrombus. 
5. Evidence of pancreatitis with heterogeneous enhancement of 
pancreatic head/ uncinate and edema within the 
pancreaticoduodenal groove. 

 
Brief Hospital Course:
Mr. ___ is a ___ y/o with PMH significant for type 2 
diabetes, schizoaffective d/o, transferred from OSH for acute 
pancreatitis c/b E.coli bacteremia, intermittent fevers, and 
acute respiratory failure. ___ course further complicated by 
malignant catatonia and recurrent aspiration.

# Malignant catatonia - Was on ativan and clozapine and 
clozapine at home for schizoeffective disorder. Clozaril was 
stopped at OSH given concern for pancreatitis. Agitation was 
originally managed with IV haldol in the ICU, but the patient 
developed muscle rigidity and near-catatonia with perseveration. 
Psych was consulted, who felt that his presentation was 
consistent with malignant catatonia and was likely secondary to 
cessation of clozaril. He was started on IV ativan but his 
catatonia appeared to be refractory to benzodiazpine treatment. 
He was then started on a regimen of ECT ___. Amantadine was 
added at 100mg po BID. With these measures, his catatonia 
resolved. He received 8 total sessions of ECT while inpatient at 
___. His amantadine was weaned to 100mg daily, and his ativan 
was left at 2mg po every 8 hours. On discharge the patient was 
alert and oriented to person, place, and time with occasional 
confusion about date and hospital name. He will need maintenance 
ECT therapy weekly on ___ for an indeterminate amount of 
time. His outpatient psychiatrist has been closely involved. His 
next treatment is at ___ on ___. ***Ativan should be held 
past midnight on scheduled ECT days.

# Acute respiratory failure - Patient had stridorous 
respirations at the OSH. He was found to have a 6x3 cm hardened, 
dark brown material c/w hardened or dried oral secretion, which 
was removed. He remained stridorous after the procedure and was 
intubated for concern of airway protection, which was performed 
___ prior to transfer. CXR showed no infiltrates and no 
pulmonary edema. Here he was successfully extubated on ___ and 
was stable for a week.  He was called-out to the floor on ___, 
and within two hours was stridorous, and a respiratory code was 
called. He was re-intubated and bronchoscopy revealed mucous 
plug and thick secretions.  He was started on vanc/cefipime and 
was extubated about 12 hours later.  Antibiotics were d/c'd two 
days later because infection was not suspected.  He was 
transferred back to the MICU again to await ECT given concern 
for decreased airway protection in his catatonic state. He was 
intubated by anesthesia with rocuronium on ___ prior to first 
ECT session. Remained intubated for several hours following 
procedure given his h/o difficult intubation. Patient was 
transitioned back to the medical floor on ___ with stable 
respiratory status. On the night of ___ he became febrile to 
___ and developped respiratory distress requiring 
non-rebreather. An interval Chest X-ray was suggestive of 
aspiration pneumonia.  He was transferred back to the MICU in 
the morning of ___, where he was intubated and sedated. Broad 
spectrum antibiotics were given. His respiratory status improved 
over several days, and his fevers resolved. His respiratory 
culture was positive for MRSA, so antibiotics were narrowed to 
Vancomycin monotherapy. He was exubated on ___, and was 
progressively weaned to 2L nasal cannula. Once called out to the 
medical floor, the patient re-spiked a fever so cefepime was 
added back on with vanc to complete a total 7 day course for 
aspiration PNA (ending ___. Patient was weaned to room air. 
The patient was made strict NPO due to aspiration risk. S&S was 
consulted who recommended a dysphagia diet. Pt was also started 
on tube feeds while PO intake was limited. Nutrition and speech 
and swallow continued to follow. Eventually, he passed speech 
and swallow eval and was able to advance to a regular diet. Tube 
feeds were then discontinued. It is felt that the patient's 
aspiration event was likely secondary to airway edema from 
multiple intubations, and that his edema has healed over time 
with subsequent improvement in ability to protect his airway. He 
was discharged on a regular diet, on room air, and without any 
respiratory concerns. Nutrition should continue to follow his 
caloric intake. Aspiration precautions should be enforced.

# Acute pancreatitis c/b pseudocyst, necrosis, and sinistral 
portal hypertension - Etiology appears to be biliary source 
although clozapine was considered as a pharmacalogic etiology. 
ERCP did not show gallstones and only sludge. Now s/p ERCP x2 at 
___. Initially a plastic stent was placed which 
migrated. It was removed and a metal stent was placed on ___. 
LFTs and Tbili improved during hospitalization. Repeat CT 
Abdomen ___ revealed massive splenomegaly concerning for 
sinitral portal hypertension. Hepatobiliary surgery and 
Hepatology were consulted and felt that splenectomy was not 
indicated at this time. They recommend follow up with Dr. ___ 
(___) in 2 months with follow up CT abd/pelvis and 
elective CCY. Because of the patient's prolonged 
hospitalization, ERCP was consulted to evaluate the patient for 
stent removal. A CT pancreatic protocol was performed on ___ 
to evaluate the stent. The stent appeared occluded but due to 
the patient's lack of symptoms and normal LFTs, it was decided 
to defer stent removal and have the patient see ERCP in clinic 
in 1 month. He will need to see both ERCP and Dr. ___ in 
approximately 4 weeks time.    

# Acute kidney injury - Prerenal versus contrast induced 
nephropathy from multiple CT scans. Resolved with IV fluids.

# Type 2 diabetes - Pt was taking Januvia at home but this was 
stopped in the setting of acute pancreatitis. Hyperglycemia was 
attributed to pancreatitis. The patient was started on a humalog 
sliding scale and lantus, which was uptitrated throughout his 
hospital course as needed (with fluctuation in his po intake and 
tube feeds). On discharge, his lantus dose was 40 units at 
dinner time. This should continue to be titrated based on 
fasting AM and QACHS fingersticks.

# Thrombocytopenia - Platelets remained in the low 100s 
throughout hospitalization. Presentation not c/w HIT. Heparin 
therapy was continued. Attributed to splenomegaly.

# Frequent falls - Pt unstable and with psychiatric limitations. 
He had multiple falls in the hospital despite strict fall 
precautions. He complained of right sided rib pain on one 
occasion, for which an XR was performed, showing no fracture. He 
was given 600mg ibuprofen, tylenol, and lidocaine patch with 
good effect. No pain on discharge.

TRANSITIONAL ISSUES
#He should f/u with ERCP here for stent removal in 4 weeks. 
#He should f/u with hepatobiliary surgery (Dr. ___ in ___nd discuss elective cholecystectomy.
#Continue 2mg po ativan Q8H, amantadine 100mg daily, and ECT 
weekly, next on ___ at ___. 
#He should follow up with his outpatient psychiatrist.
#Continued aspiration precautions.
#Continued nutrition evaluation
#Strict fall precautions and intensive ___.
#lantus 40 units HS plus sliding scale humalog. Please adjust 
this as needed.
#Health care proxy: sister, ___ ___.
#Full code.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Janumet (sitagliptin-metformin) 50-1,000 mg oral bid 
2. Lorazepam 3 mg PO DAILY 
3. Clozapine 400 mg PO HS 

 
Discharge Medications:
1. Lorazepam 2 mg PO Q8H 
2. Docusate Sodium (Liquid) 100 mg PO BID 
3. Bisacodyl 10 mg PO/PR DAILY 
4. Amantadine 100 MG PO DAILY 
5. Glargine 40 Units Dinner
Insulin SC Sliding Scale using HUM Insulin
6. Senna 8.6 mg PO BID 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Acute pancreatitis
Sepsis
Catatonia
Health care associated pneumonia
Aspiration pneumonia
Diabetes Mellitus type 2
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___. You were admitted 
to the hospital originally because of inflammation in your 
pancreas and subsequent bacterial infection in the blood stream. 
These improved. You then experienced difficulty breathing and 
required a breathing machine to help you breathe. Your oxygen 
levels improved but you then developed pneumonia. The pneumonia 
resolved with antibiotics.

While here, you had difficulty eating safely without choking on 
your food and had several choking events. Because of your 
choking, your nutritional intake was limited. You required 
nutrition through a feeding tube. Over time, your swallowing 
improved, and you were able to eat a regular diet without 
choking.

Lastly, while you were here, you developed a psychiatric 
condition called catatonia. You were started on medicines and 
ECT to help with this. You will need to continue ECT weekly and 
follow up with your outpatient psychiatrist for further 
treatment.

We now feel it is safe for you to leave the hospital.
 
Followup Instructions:
___